US05998432
Step 1D: (S)-2-[3-(2-Benzyloxy-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-methylpropanoic acid
A vigorously stirred suspension of methyl (S)-2-[3-(2-benzyloxy-1-methylethyl)-2-(3,5-dimethyl-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-methylpropanoate (3.82 g, 8.12 mmol) and 2N KOH (40.6 mL, 0.081 mol) in MeOH (40 mL) was heated at 80° C. for approximately 4 h. After cooling to room temperature, the reaction mixture was acidified to pH 6 with 2N HCl and extracted with ethyl acetate (×3). The combined organic extract was washed with brine, dried (MgSO4) and concentrated in vacuo. The crude residue was used without further purification in the subsequent reaction.

reactant | methyl (S)-2-[3-(2-benzyloxy-1-methylethyl)-2-(3,5-dimethyl-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-methylpropanoate | 8.12 mmol, 3.82 g | C(C1=CC=CC=C1)OC[C@@H](C)C1=C(NC2=NC=C(C=C21)C(C(=O)OC)(C)C)C2=CC(=CC(=C2)C)C | C30H34N2O3
reactant | KOH | 0.081 mol, 2N, 40.6 mL | [OH-].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | MeOH | 40 mL | CO | CH4O
product | (S)-2-[3-(2-Benzyloxy-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-methylpropanoic acid | C(C1=CC=CC=C1)OC[C@@H](C)C1=C(NC2=NC=C(C=C21)C(C(=O)O)(C)C)C2=CC(=CC(=C2)C)C | C29H32N2O3
